US09145414B2
Tert-butyl carbamate (81 mg), palladium acetate (4 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl biphenyl (17 mg), and cesium carbonate (340 mg) were added to a solution of ethyl 4-(trifluoromethylsulfonyloxy)benzo[b]thiophene-6-carboxylate obtained in the above-described Step 2 (120 mg) in dioxane (2 ml), and the reaction solution was stirred at 100° C. for 3 hours. The reaction solution was diluted with ethyl acetate, and washed successively with a saturated aqueous sodium bicarbonate solution and a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum. The residue was purified by column chromatography on silica gel (developing solvent:hexane-ethyl acetate) to obtain ethyl 4-(tert-butoxycarbonylamino)benzo[b]thiophene-6-carboxylate.

reactant | Tert-butyl carbamate | 81 mg | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl biphenyl | 17 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 340 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl 4-(trifluoromethylsulfonyloxy)benzo[b]thiophene-6-carboxylate | FC(S(=O)(=O)OC1=CC(=CC=2SC=CC21)C(=O)OCC)(F)F | C12H9F3O5S2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl 4-(tert-butoxycarbonylamino)benzo[b]thiophene-6-carboxylate | C(C)(C)(C)OC(=O)NC1=CC(=CC=2SC=CC21)C(=O)OCC | C16H19NO4S
